US07300646B2
Specific Procedure/Preferred Embodiment: 7-hydroxy-3,4-dihydro-4-methylcoumarin (B1)
A Parr hydrogenator (1 L) was charged with 7-hydroxy-4-methylcoumarin, i.e., Compound of formula A1, (60 g, 0.34 mol) and acetic acid (350 ml). A suspension of 10% Pd/C (6.0 g) in acetic acid (150 ml) was added and the reactor sealed, evacuated and purged with nitrogen (4×). The reactor was pressurized to 320 psi with hydrogen and stirred at 30° C. for 16 hr, at which point no hydrogen was consumed and TLC (4% methanol:chloroform) showed the clean formation of product at the expense of starting material. The reactor was evacuated, purged with nitrogen and the mixture filtered through celite. The solvent was removed to give a white solid (60.5 g, 100%). Recrystallization from ethyl acetate:hexane afforded pure product as a white solid: m.p. 109-110° C.; 1H NMR (DMSO-d6) d 1.19 (d, JJ=6.7, 3H), 2.52 (dd, JJ=15.9, 7.3, 1H), 2.84 (dd, JJ=15.9, 5.5, 1H), 3.08 (m, 1H), 6.46 (d, JJ=2.4, 1H), 6.58 (dd, JJ=8.2, 2.4, 1H), 7.10 (d, JJ=8.2, 1H), 9.66 (s, 1H); 13C (DMSO-d6) d 19.84, 27.87, 36.45, 103.17, 111.38, 118.29, 127.17, 151.45, 157.17, 168.11; m/z (EI; TMS derivatized; M+) 250; IR (neat; cm−1) 3379.6, 2969.2, 2930.2, 2871.5, 1748.0, 1630.7, 1601.4, 1518.4, 1454.89, 1352.3, 1283.9, 1249.7, 1239.9, 1152.0, 1117.8, 1078.7, 1020.1, 995.7, 942.0, 854.0, 814.9.

reactant | 7-hydroxy-4-methylcoumarin | OC1=CC=C2C(=CC(OC2=C1)=O)C | C10H8O3
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 6.0 g | [Pd] | Pd
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 7-hydroxy-3,4-dihydro-4-methylcoumarin | 60.5 g, 100% | OC1=CC=C2C(CC(OC2=C1)=O)C | C10H10O3
